US07855201B2
Step 3: 4-methoxypyrimidine-5-carbaldehyde
To an cooled solution (−78° C. internal temp) of 0.3 g of methyl 4-methoxypyrimidine-5-carboxylate in 20 mL of dichloromethane was added 2 mL of 1 M diisobutyl aluminum hydride in toluene. After stirring 10 min the reaction was quenched with 5 mL of water, allowed to warm to room temperature and dried with 5 g of MgSO4. Concentration of the filtrate under reduced pressure gave the product as a resin and was used without further purification: MS (m+1)=171.1 (hydrate).

reactant | methyl 4-methoxypyrimidine-5-carboxylate | 0.3 g | COC1=NC=NC=C1C(=O)OC | C7H8N2O3
reactant | diisobutyl aluminum hydride | 1 M, 2 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-methoxypyrimidine-5-carbaldehyde | COC1=NC=NC=C1C=O | C6H6N2O2
